US09315475B2
Step 3: Preparation of (2S)-2-(benzylamino)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-1-ol
To methyl N-benzyl-O-[tert-butyl(dimethyl)silyl]-D-serinate (1 eq.) in THF (0.4 M) at rt were added 2M LiBH4 in THF (1.2 eq.) and MeOH (1.2 eq). The mixture was stirred at rt for 16 hrs and quenched by the slow addition of saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was used as such for the next step.

reactant | methyl N-benzyl-O-[tert-butyl(dimethyl)silyl]-D-serinate | 1 eq. | C(C1=CC=CC=C1)N[C@H](CO[Si](C)(C)C(C)(C)C)C(=O)OC | C17H29NO3Si
reactant | LiBH4 | 2M | [Li+].[BH4-]
reactant | MeOH | 1.2 eq | CO | CH4O
solvent | THF | 0.4 M | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq. | C1CCOC1 | C4H8O
product | (2S)-2-(benzylamino)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-1-ol | C(C1=CC=CC=C1)N[C@@H](CO)CO[Si](C)(C)C(C)(C)C | C16H29NO2Si
